Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Benadryl Decongestant / dye
 
Attending: ___.
 
Chief Complaint:
Headache, syncope and convulsions
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of anxiety d/o, major depression, h/o panic
attacks, migraines and GERD presents after fluctuating headache
since ___ with left hemibody hypersensitivity and several
episodes concerning for pseudoseizures. 

Patient has been under a lot of stress recently and has had 
prior
ED neurological evaluation in ___ when seen in the emergency
department and had seen by Dr ___ Dr ___ in the past for
multiple complaints last in ___ and describes a history of
episodes of reduced consciousness over the past ___ years. Patient
was admitted to the ED on ___ after an event initially thought 
to
be a focal motor seizure but in the context of other witnessed
episodes appears to be most likely consistent with non-epileptic
attacks.

Patient was seen in consultation in ___ when she was seen for
episodes where she have a weird sensation of " as if I am going
to sink in the sand" in addition to left-sided tremulousness and
a feeling of heaviness, tingling and hypersensitivity on the 
left
side attributed to a panic attack. She had a routine EEG as an
outpatient which was unremarkable.

Patient notes a headache for the past 1 week which has varied in
character and intensity and had generally been in the right
frontal region although latterly has become bifrontal. Her
headache was described as fluctuating from dull to sharp and
stabbing and could also be throbbing. This has never gone away
over this period. At it's worst it was ___ although today
following her episodes is ___. This has been associated with
nausea but no vomiting and phono and photophobia. Her headache
has also been associated with a feeling of tingling and
hypersensitivity on the left side and has latterly felt her 
whole
left side was swollen with discoloured digits and subjective 
poor
circulation on this side over the past 2 days although there is
no evidence of this.

Patient was taking a patient to a ward on tele from the ED where
she is a night-shift worker and did not feel well with a
characteristic sensation of 5 minutes of a funny feeling of
feeling weak, light-headed and that her vision is not right,
being generally blurred and a sensation that her eyes are
shaking. She persisted with her shift until she "could not hold
on any longer" and brought herself down to the floor and braced
herself against the stretcher when she partially lost
comsciousness (could hear and feel but could not understand or
respond) and was noted to have left-sided shaking which was
witnessed by a trauma surgery attending who was concerned that
this was a focal seizure. She did not know how long this lasted
but during this time had a sensation of chest heaviness like
someone was sitting on top of her. She was therefore taken down
to the ED. This is not the first time something has happened and
the patient knew that she had to get herself safe as she was
concerned she may injure herself. She states that over the past 
___
years she has had similar episodes every 3 months or so and has
never injured herself.

While in the ED, she had several more witnessed episodes which
sound like panic attacks/pseudo-seizures. She had an episode
where she started hyperventilating, became tachycardic (all 
other
vitals normal) and was squirming in the bed and could follow
commands. She was given IV lorazepam 2mg at this time for
anxiolysis. She had another episode when she was gripping onto
the bed rail with her left hand and had bilateral leg shaking 
and
flailing of her left arm which lasted approximately 1 minute and
resolved without treatment and to the ED physician who observed
this appeared to be a pseudoseizure as she was conscious during
this and appeared very distressed.

She currently still had a bad headache (although by the end of
the shift this had resolved) and was nauseated, distressed and
emotional and vomited x1. She also noted left sided
hypersensitivity and tingling which also latterly resolved.

Regarding her stress, she feels very stressed and feels she is
"pushing herself" too hard and has marital problems (although
said she was "working on it" and concerns about her children
which made her very distressed which she would not divulge to 
me.
She became tearful at many episodes of the encounter.

She is a ___ and has poor sleep getting roughly 6 hours
of sleep each night. She doe snot feel that she is depressed
currently.

 
Past Medical History:
# Anxiety rx with SSRI  
# Panic attacks over last ___ years  
# Major depression: ongoing for years; rx for approx ___ yr  
# GERD  
# H. pylori s/p rx  
# Asthma  
# Migraine  
 
Social History:
___
Family History:
mother: throat ca
___: colon ca age ___
GF: VCA
GM: DM 
M and Dad: DM
mx people with depression.
 
Physical Exam:
Admission Physical Exam: 
Vitals: T:98.1 P:99  R:18  BP:142/81  SaO2:100% RA 
General: Awake, cooperative distressed and tearful. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity. 

Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. Calves SNT bilaterally. 
Skin: no rashes or lesions noted.
 
Neurological examination: 
- Mental Status:
Patient aws at times distressed and tearful. 
ORIENTATION - Alert, oriented x 4 
The pt. had good knowledge of current events.  
SPEECH Able to relate history without difficulty.  
Language is fluent with intact repetition and comprehension. 
Normal prosody.  There were no paraphasic errors.
Speech was not dysarthric. 
NAMING Pt. was able to name both high and low frequency objects.
READING - Able to read without difficulty
ATTENTION - Attentive, able to name ___ backward without
difficulty - 1 error missed ___.  
REGISTRATION and RECALL
Pt. was able to register 3 objects and recall ___ at 5 minutes.
COMPREHENSION
Able to follow both midline and appendicular commands There was 
no evidence of apraxia or neglect 

- Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3.5 to 2.5mm and brisk. VFF to confrontation.
Funduscopic exam reveals no papilledema, exudates, or
hemorrhages. 
III, IV, VI: EOMI without nystagmus. Normal pursuits and
saccades. 
V: Facial sensation intact to light touch but felt 
hypersensitive
throughout the left hemibody sl=plitting the midline. Good power
in muscles of mastication. 
VII: No facial weakness, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline with normal velocity movements.
 
- Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
Slight give-way weakness in left IP but actually on further
testing full. Full strength otherwise.

- Sensory: No deficits to light touch, pinprick, cold sensation
all are hypersensitiv eon the left hemibody splitting teh
midline. Normal vibratory sense, proprioception throughout in UE
and ___. No extinction to DSS.
 
- DTRs: 
   BJ SJ TJ  KJ  AJ 
L  ___   2   1 
R  ___   2   1
There was no evidence of clonus. ___ negative. Pectoral 
reflexes absent.
Plantar response was flexor bilaterally.
- Coordination: No intention tremor, normal finger tapping. No
dysdiadochokinesia noted. No dysmetria on FNF or HKS 
bilaterally.
- Gait: Odd gait steady and astasia abasia on tandem but stable. 
On Romberg takes several steps back several times but very 
stable.

Discharge Physical exam is as above, with the exception of the 
patient is in good spirits. She has a normal general physical 
and neurologic exam. Her gait is normal. 
 
Pertinent Results:
___ 06:36AM URINE  HOURS-RANDOM
___ 06:36AM URINE  HOURS-RANDOM
___ 06:36AM URINE  UCG-NEGATIVE
___ 06:36AM URINE  GR HOLD-HOLD
___ 06:36AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 06:36AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:36AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:36AM   LACTATE-2.7*
___ 01:30AM   GLUCOSE-99 UREA N-12 CREAT-0.8 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 01:30AM   estGFR-Using this
___ 01:30AM   ALT(SGPT)-13 AST(SGOT)-20 ALK PHOS-47 TOT 
BILI-0.3
___ 01:30AM   LIPASE-37
___ 01:30AM   ALBUMIN-4.4 CALCIUM-9.1 PHOSPHATE-4.0 
MAGNESIUM-1.8
___ 01:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-7* bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 01:30AM   WBC-6.1 RBC-4.23 HGB-13.0 HCT-40.2 MCV-95 
MCH-30.7 MCHC-32.4 RDW-12.5
___ 01:30AM   NEUTS-35.1* LYMPHS-53.8* MONOS-6.4 EOS-3.1 
BASOS-1.7
___ 01:30AM   PLT COUNT-___ with a PMH of anxiety d/o, major depression, h/o panic 
attacks, migraines and GERD presents after fluctuating headache 
since ___ with left hemibody hypersensitivity and several 
episodes concerning for pseudoseizures. 

Patient admitted to Neurology for observation. CT Head is 
normal. Labs are unremarkable. Patient's biggest concern is her 
headaches. We started depakote 250 mg BID for headache control. 
It appears that her syncopal versus conversion like reactions 
are often precipitated by headaches and pain.  The patient was 
observed through the day and was discharged home on depakote in 
good condition. She will have neurology ___ in ___ to 
address further headache management. 

 
Medications on Admission:
None
 
Discharge Medications:
1. divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*4*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Headache, 2. Non-epileptic event

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro Exam: Normal, non focal. 

 
Discharge Instructions:
Ms. ___, You were admitted for observation after having a 
non-epiletic convulsion, likely triggered by your persistent 
migraine headaches. We started you on a regular headache 
medicine called Depakote 250 mg BID that you should continue to 
take. You were observed in the hospital for 12 hours and did 
well. You should ___ with your regular doctor. 
 
Followup Instructions:
___